US07279469B2
N-(5-Amino-1-benzothiazol-2-yl-1H-[1,2,4]triazol-3-yl)-benzamide:
Benzoyl chloride (0.34 mmol) was added dropwise to a stirred solution of 1-benzothiazol-2-yl-1H-[1,2,4]triazole-3,5-diamine (0.34 mmol) in pyridine (3 ml). The reaction mixture was stirred at room temperature for 2 hours then it was concentrated in vacuo. The residue was partitionned between ethyl acetate and 10% aqueous citric acid. At this stage, a white solid was filtered off. The solid was dried in vacuo to afford the pure title compound (10 mg; 15% yield). 1H (400 MHz, DMSO-d6) δ 7.40-7.45 (1H, t), 7.50-7.70 (3H, m), 7.85-8.00 (6H, m), 8.1 (1H, d), 10.95 (1H, s). MS (ES+) m/e=337

reactant | Benzoyl chloride | 0.34 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-benzothiazol-2-yl-1H-[1,2,4]triazole-3,5-diamine | 0.34 mmol | S1C(=NC2=C1C=CC=C2)N2N=C(N=C2N)N | C9H8N6S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-Amino-1-benzothiazol-2-yl-1H-[1,2,4]triazol-3-yl)-benzamide | 10 mg, 15% yield | NC1=NC(=NN1C=1SC2=C(N1)C=CC=C2)NC(C2=CC=CC=C2)=O | C16H12N6OS
